US04036973
1-[2'-(4"-chlorobenzylthio)-3'-(n-hexylthio)propyl]imidazole oxalate (2.3 g.) in 100 ml. of dichloromethane is shaken with excess potassium carbonate solution until the salt is completely dissolved. The organic layer is then separated, washed with water, dried over magnesium sulfate and evaporated to yield 1-[2'-(4"-chlorobenzylthio)-3'-(n-hexylthio)propyl]imidazole.

reactant | 1-[2'-(4"-chlorobenzylthio)-3'-(n-hexylthio)propyl]imidazole oxalate | 2.3 g | C(C(=O)O)(=O)O.ClC1=CC=C(CSC(CN2C=NC=C2)CSCCCCCC)C=C1
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-[2'-(4"-chlorobenzylthio)-3'-(n-hexylthio)propyl]imidazole | ClC1=CC=C(CSC(CN2C=NC=C2)CSCCCCCC)C=C1 | C19H27ClN2S2
